US07538121B2
2-(4-Pyridyl)furan-4-carboxylic acid
Using the procedure outlined in Description 29, the title compound was prepared from 2-bromo-furan-4-carboxylic acid (S. W. En, M. C. Yuen, H. N. C. Wong, Tetrahedron, 1996, 52(37), 12137) and 4-pyridylboronic acid.

reactant | 2-bromo-furan-4-carboxylic acid | BrC=1OC=C(C1)C(=O)O | C5H3BrO3
reactant | 4-pyridylboronic acid | N1=CC=C(C=C1)B(O)O | C5H6BNO2
product | 2-(4-Pyridyl)furan-4-carboxylic acid | N1=CC=C(C=C1)C=1OC=C(C1)C(=O)O | C10H7NO3
